US09193721B2
The N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (0.46 g, 1.2 mmol) was added to a solution of 4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylic acid (0.29 g, 1.0 mmol) in N,N-dimethylformamide (3.0 mL) containing N,N-diisopropylethylamine (0.35 mL, 2.0 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.14 g, 1.5 mmol) at room temperature. The reaction was complete after stirring for 2 hours. This was taken up in ethyl acetate, washed with water, brine, dried over magnesium sulfate and concentrated to give the crude amide. The product was purified on silica gel eluting hexane:ethyl acetate gradient to give 4-chloro-7-(3-fluorophenyl)-N-methoxy-N-methylpyrazolo[1,5-a]pyridine-6-carboxamide (0.29 g, 88%) as a glass. LCMS calculated for C16H14ClFN3O2 (M+H)+: m/z=334.1. found: 333.9.

reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 1.2 mmol, 0.46 g | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | 4-chloro-7-(3-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carboxylic acid | 1.0 mmol, 0.29 g | ClC=1C=2N(C(=C(C1)C(=O)O)C1=CC(=CC=C1)F)N=CC2 | C14H8ClFN2O2
reactant | N,N-diisopropylethylamine | 2.0 mmol, 0.35 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 1.5 mmol, 0.14 g | Cl.CNOC
solvent | N,N-dimethylformamide | 3.0 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-7-(3-fluorophenyl)-N-methoxy-N-methylpyrazolo[1,5-a]pyridine-6-carboxamide | 0.29 g, 88% | ClC=1C=2N(C(=C(C1)C(=O)N(C)OC)C1=CC(=CC=C1)F)N=CC2 | C16H13ClFN3O2
